US03992400
In the manner given in Preparation 1, 2-amino-2',5-dichlorobenzophenone is refluxed with hydrazine hydrate in diethylene glycol to give 2-amino-2',5-dichlorobenzophenone hydrazine.

reactant | 2-amino-2',5-dichlorobenzophenone | NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl | C13H9Cl2NO
reactant | hydrazine hydrate | O.NN
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | 2-amino-2',5-dichlorobenzophenone hydrazine | NN.NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl | InChI=1S/C13H9Cl2NO.H4N2/c14-8-5-6-12(16)10(7-8)13(17)9-3-1-2-4-11(9)15;1-2/h1-7H,16H2;1-2H2
